US06660753B2
3-Fluoro-5-methoxybenzoic Acid
In a 50 ml round bottom flask equipped with stir bar and reflux condensor added 3-Fluoro-5-methoxybenzonitrile (0.62 g, 4.10 mmol), methanol (6.2 ml) and sodium hydroxide (6.2 ml, 6N aqueous). Stirred the resulting reaction mixture at 100° C. overnight. Reaction mixture was cooled to room temperature and concentrated in-vacuo. The residue was diluted with dichloromethane (100 ml) and acidified using hydrochloric acid (1N aqueous). The organic phase was separated, sequentially washed with water (100 ml) and brine (100 ml), dried (sodium sulfate) and concentrated in-vacuo, to yield the title compound (0.64g, 91%) as a white solid.

reactant | 3-Fluoro-5-methoxybenzonitrile | 4.10 mmol, 0.62 g | FC=1C=C(C#N)C=C(C1)OC | C8H6FNO
reactant | sodium hydroxide | 6N, 6.2 ml | [OH-].[Na+]
reactant | methanol | 6.2 ml | CO | CH4O
product | 3-Fluoro-5-methoxybenzoic Acid | 0.64g, 91% | FC=1C=C(C(=O)O)C=C(C1)OC | C8H7FO3
